Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ yo F pmhx ovarian cancer C1D3 carboplatin recently admitted
___ for abdominal pain thought to be due to recurrent
ovarian cancer. The patient had her morphine discontinued and 
was
started on tramadol for pain management. On ___, she received
C1D3 of carboplatin. She was started on a bowel regimen of
miralax BID, docusate BID, and bisacodyl PO PRN. Unfortunately,
she did not have a bowel movement while in house and was
discharged ___. She was seen in clinic ___ by Dr. ___
was complaining of significant abdominal pain and was direct
admitted for abdominal pain felt ___ constipation. 

On arrival to the floor, the patient confirms the following. She
describes the abdominal pain as dull achy and LLQ. She says she
took the senna and docusate at home last night. Would like to 
try
the enema first 

Denies f/c/cp/sob/n/v/myalgia/arthralgia. 
 

 
Past Medical History:
ovarian CA s/p total hysterectomy, chemo (last tx~ ___ year ago)
hypothyroidism
- Developmental delay with learning disability attributed to 
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
DIABETES MELLITUS; 
PSORIASIS
 
Physical Exam:
Admission Physical exam:
========================
VS: Reviewed in E Flowsheets
GENERAL: NAD, A&Ox3, lying in bed comfortably 
EYES: Sclera clear, anicteric, PERRL
HENT: MMM,  
CV: RRR, normal s1/s2, no MRG 
RESP: CTAB, no wheezes/crackles/rhonci. No accessory muscle 
usage
ABD: Bowel sounds normoactive, soft and NTND, no HSM. No
guarding/rebound tenderness. 
Ext: No clubbing/cyanosis. Pulses 2+ bilaterally. Normal 
strength
and ROM in all extremities. 
SKIN: No rashes/lesions. No jaundice. Warm. No evidence of skin
breakdown. 
NEURO: No gross/focal deficits 
PSYCH: Mood/affect appropriate. 

Discharge Physical Exam:
=========================
VS: 98.1 PO 113 / 77 67 20 97 RA 
GENERAL: NAD, A&Ox3, lying in bed comfortably 
EYES: Sclera clear, anicteric  
CV: RRR, normal s1/s2, no MRG 
RESP: CTAB, no wheezes/crackles/rhonci. No accessory muscle 
usage
ABD: Bowel sounds normoactive, soft and NTND, no HSM. No
guarding/rebound tenderness. 
Ext: no edema
SKIN: No rashes/lesions. No jaundice. Warm. No evidence of skin
breakdown. 
NEURO: No gross/focal deficits 
PSYCH: Mood/affect appropriate. 
 
Pertinent Results:
Admission Labs:
===============
___ 02:40PM   UREA N-12 CREAT-1.0 SODIUM-144 POTASSIUM-3.7 
CHLORIDE-105 TOTAL CO2-24 ANION GAP-15
___ 02:40PM   ALT(SGPT)-23 AST(SGOT)-16 ALK PHOS-115* TOT 
BILI-0.2
___ 02:40PM   ALBUMIN-4.0 CALCIUM-8.3* PHOSPHATE-2.5* 
MAGNESIUM-1.7
___ 02:40PM   CA125-21
___ 02:40PM   WBC-8.4 RBC-3.90 HGB-9.5* HCT-31.6* MCV-81* 
MCH-24.4* MCHC-30.1* RDW-16.8* RDWSD-49.0*
___ 02:40PM   AbsNeut-5.63
___ 02:40PM   PLT COUNT-142*

Pertinent Studies:
==================
ABD X ray ___
INDICATION: ___ year old woman with hx ovarian cancer, abd 
discomfort, no BM 
for 6 days// stool burden vs. obstruction 
  
TECHNIQUE: 2 supine images of the abdomen. 
  
COMPARISON: ___ 
  
FINDINGS:  
  
There are no abnormally dilated loops of large or small bowel. 
There is 
moderate colonic stool burden. 
Osseous structures are unremarkable. 
Surgical clips seen within the pelvis. 
  
IMPRESSION:  
  
Moderate stool burden. No evidence of obstruction. 

DISCHARGE LABS
===============
___ 06:00AM BLOOD Glucose-87 UreaN-10 Creat-0.9 Na-144 
K-3.8 Cl-106 HCO3-26 AnGap-12
___ 06:00AM BLOOD Calcium-8.3* Phos-3.8 Mg-1.___ yo F PMHx ovarian cancer admitted for abdominal pain thought 
___ constipation. 

ACUTE/ACTIVE PROBLEMS:
#Abdominal Pain
#Constipation
No bowel movement since ___. Reports intermittent compliance 
with bowel regimen since discharge, which is most likely 
precipitant in addition to tramadol. Patient was nontoxic 
appearing, with a KUB showing moderate stool burden but no 
evidence of obstruction. Her abdomen was soft, without 
peritoneal signs. We gave the patient a fleet enema which 
produced a large bowel movement. This improved the patients 
symptoms and she was able to be discharged with a bowel regimen 
of senna/miralax/bisacodyl/docusate. 
Risk factor is use of tramadol, which she was started on last 
admission. Was held while in house to facilitate BM, and despite 
holding her pain improved. Resumed on discharge but could 
consider downtitrating if constipation continues.

#Recurrent Ovarian Cancer
Patient of Dr. ___ who is aware of the admission. Received dose 
of carboplatin on ___ (prior to this admission). Planned f/u 
___ to discuss further treatment options.

CHRONIC/STABLE PROBLEMS:
#Hypothyroidism 
Continued levothyroxine 

#Normocytic Anemia
Chronic, stable from prior. 

#Depression
Continued duloxetine, amitryptiline, aripiprazole 

#HTN: 
Held losartan due to SBP 100s-110s here, and reported borderline 
BPs on recent admission.

Transitional Issues:
====================
[]Continue to titrate bowel regimen as needed. Consider 
downtitrating tramadol if not needed and constipation continues 
to be an issue
[]f/u with Dr. ___ ___ to discuss chemotherapy plan in setting 
of recurrent ovarian cancer
[]losartan held due to low-normal blood pressures. consider 
resuming as outpatient

code: full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
3. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
4. Docusate Sodium 100 mg PO BID 
5. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
6. Polyethylene Glycol 17 g PO BID 
7. Prochlorperazine 5 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
8. TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
9. Amitriptyline 25 mg PO QHS 
10. ARIPiprazole 2 mg PO QHS 
11. DULoxetine 120 mg PO DAILY 
12. Gabapentin 600 mg PO QHS 
13. Gabapentin 300 mg PO QPM 
14. Gabapentin 300 mg PO QAM 
15. Levothyroxine Sodium 75 mcg PO DAILY 
16. LORazepam 1 mg PO QHS:PRN anxiety 
17. Omeprazole 40 mg PO DAILY:PRN heartburn 

 
Discharge Medications:
1.  Senna 8.6 mg PO BID 
hold for loose stool 
RX *sennosides 8.6 mg 1 tab by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H  
3.  Amitriptyline 25 mg PO QHS  
4.  ARIPiprazole 2 mg PO QHS  
5.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
6.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
7.  Docusate Sodium 100 mg PO BID  
8.  DULoxetine 120 mg PO DAILY  
9.  Gabapentin 600 mg PO QHS  
10.  Gabapentin 300 mg PO QPM  
11.  Gabapentin 300 mg PO QAM  
12.  Levothyroxine Sodium 75 mcg PO DAILY  
13.  LORazepam 1 mg PO QHS:PRN anxiety  
14.  Omeprazole 40 mg PO DAILY:PRN heartburn  
15.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
16.  Polyethylene Glycol 17 g PO BID  
17.  Prochlorperazine 5 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
18.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
1) Constipation

Secondary Diagnosis:
====================
1) Ovarian Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?
-You were admitted for constipation

WHAT HAPPENED TO ME IN THE HOSPITAL?
-We gave you an enema 
-Your constipation and pain improved

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
-Continue to take all your medicines and keep your appointments.

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___